US05620983
Compound No. 12. A suspension of 3,5-diacetylaniline (0.531 g) in water (8 mL) was treated with cyanoguanidine (0.285 g) and conc. HCl (0.25 mL) and heated at reflux. After 6 hr the mixture was cooled and concentrated and 0.248 g of off-white solid was filtered out and dried to give N-(3,5-diacetylphenyl)biguanide hydrochloride, mp 260°-70° C. (dec).

reactant | 3,5-diacetylaniline | 0.531 g | C(C)(=O)C=1C=C(N)C=C(C1)C(C)=O | C10H11NO2
reactant | cyanoguanidine | 0.285 g | C(#N)NC(=N)N | C2H4N4
reactant | HCl | 0.25 mL | Cl | ClH
solvent | water | 8 mL | O | H2O
product | N-(3,5-diacetylphenyl)biguanide hydrochloride | Cl.C(C)(=O)C=1C=C(C=C(C1)C(C)=O)NC(=N)NC(=N)N | InChI=1S/C12H15N5O2.ClH/c1-6(18)8-3-9(7(2)19)5-10(4-8)16-12(15)17-11(13)14;/h3-5H,1-2H3,(H6,13,14,15,16,17);1H
